US04098746
A polymerization liquor adjusted to a pH value of 5 and consisting of 5700 g of water, 44 g of the oxethylation product of 1 mole of stearyl alcohol and 20 moles of ethylene oxide, 115 g of polyvinyl alcohol, the 4% aqueous solution of which had a viscosity of 18 centipoises and a saponification index of 88 mol %, 15 g of water-free sodium acetate and 12.5 g of sodium disulfite was introduced into a 30 liter pressure reaction vessel provided with a temperature regulator and an agitator. The reactor was flushed with nitrogen and ethylene in order to remove essentially all the oxygen. The agitator was then adjusted to 150 revolutions per minute, 790 g of a mixture of 24 g of monochloro-acetic acid vinyl ester and 766 g of vinyl acetate were then added, the contents of the vessel were heated to 60° C and a solution of 6 g of ammonium persulfate in 175 g of water was added. Ethylene was added during the heating process until a pressure of 45 atmospheres gauge was obtained. After the polymerization had started, a mixture of 205 g. of monochloroacetic acid vinyl ester and 6880 g of vinyl acetate, a solution of 190 g of polyvinyl alcohol, the 4% aqueous solution of which had a viscosity of 18 centipoises and a saponification index of 88 mol % in 2000 g of water and a solution of 14.4 g of ammonium persulfate in 420 g of water was added over a period of 6 hours a reactor temperature of 60° C. After finishing said addition a solution of 3.6 g of ammonium persulfate in 105 g of water was added to the mixture and the whole was heated for 1.5 hours at an temperature of 75° C. The ethylene addition was then stopped. After cooling, a 55% by weight copolymer dispersion of vinyl acetate/monochloroacetic acid vinyl ester/ethylene was obtained having a latex viscosity of 12 poises, an average particle size of about 0.9 μ and the polymer of which had an ethylene content of about 20% by weight. The properties of the dispersion film are shown in table 1.

reactant | stearyl alcohol | 1 mole | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | ethylene oxide | 20 moles | C1CO1 | C2H4O
reactant | sodium disulfite | 12.5 g | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
reactant | monochloroacetic acid vinyl ester | C(=C)OC(CCl)=O | C4H5ClO2
reactant | vinyl acetate | 6880 g | C(C)(=O)OC=C | C4H6O2
reactant | ammonium persulfate | 14.4 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | ammonium persulfate | 3.6 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | ethylene | C=C | C2H4
solvent | water | 2000 g | O | H2O
solvent | water | 420 g | O | H2O
solvent | water | 105 g | O | H2O
solvent | water | 15 g | O | H2O
solvent | water | 5700 g | O | H2O
product | vinyl acetate monochloroacetic acid vinyl ester ethylene | C(C)(=O)OC=C.C(=C)OC(CCl)=O.C=C | InChI=1S/C4H5ClO2.C4H6O2.C2H4/c1-2-7-4(6)3-5;1-3-6-4(2)5;1-2/h2H,1,3H2;3H,1H2,2H3;1-2H2
